US08008307B2
Step e: 2-[(4aS,6R,7aS)-2-(4-Methoxyphenyl)hexahydrocyclopenta[d][1.3]dioxin-6-yl]-1H-isoindole-1,3(2H)-dione
To a solution of O-[(4aS,6R,7S,7aR)-6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate (56.9 mg, 0.107 mmol) in toluene (4.00 mL) was added tris(trimethylsilyl)silane (0.0700 mL, 0.227 mmol). Air (2.00 mL) was bubbled through the solution and a 1.00 M solution of triethylborane in hexane (0.0320 mL, 0.0320 mmol) was added and the reaction was stirred for 2 h. More tris(trimethylsilyl)silane (0.0700 mL, 0.227 mmol) and 1.00 M triethylborane in hexane (0.0300 mL, 0.0300 mmol) were added, and the mixture was stirred another 6 h. The mixture was then concentrated in vacuo and the residue was purified via silica gel chromatography eluting with a gradient of 0 to 20% EtOAc in DCM to afford the title compound (16.9 mg, 42%). LC/MS: Rt=2.03 min, ES+ 380. (AA standard).

reactant | O-[(4aS,6R,7S,7aR)-6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-2-(4-methoxyphenyl)hexahydrocyclopenta[d][1,3]dioxin-7-yl] O-phenyl thiocarbonate | 0.107 mmol, 56.9 mg | C(O[C@H]1[C@@H](C[C@@H]2[C@H]1OC(OC2)C2=CC=C(C=C2)OC)N2C(C1=CC=CC=C1C2=O)=O)(OC2=CC=CC=C2)=S | C29H25NO7S
reactant | tris(trimethylsilyl)silane | 0.227 mmol, 0.0700 mL | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | hexane | 0.0320 mmol, 0.0320 mL | CCCCCC | C6H14
reactant | tris(trimethylsilyl)silane | 0.227 mmol, 0.0700 mL | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
reactant | triethylborane | 1.00 M | C(C)B(CC)CC | C6H15B
reactant | hexane | 0.0300 mmol, 0.0300 mL | CCCCCC | C6H14
solvent | toluene | 4.00 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(4aS,6R,7aS)-2-(4-Methoxyphenyl)hexahydrocyclopenta[d][1.3]dioxin-6-yl]-1H-isoindole-1,3(2H)-dione | 16.9 mg, 42% | COC1=CC=C(C=C1)C1OC[C@H]2[C@@H](O1)C[C@@H](C2)N2C(C1=CC=CC=C1C2=O)=O | C22H21NO5
